US07683064B2
5-Bromo-1-methyl-3-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-1H-pyridin-2-one (67 mg, 0.17 mmol), 6-Dimethylamino-2-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-3,4-dihydro-2H-isoquinolin-1-one (67 mg, 0.17 mmol), tetrakis(triphenylphosphine)palladium(0) (20 mg, 0.017 mmol), and sodium carbonate (54 mg, 0.51 mmol) in 2 mL 1,2-dimethoxyethane and 1 mL water was heated to 170° C. for 12.5 minutes in the microwave. The resulting mixture was partitioned between ethyl acetate and water. The ethyl acetate layer was washed with brine, dried over anhydrous magnesium sulfate, concentrated in vacuo, and purified by flash chromatography (gradient elution 2 to 5% methanol/dichloromethane) to yield 6-Dimethylamino-2-(3-{1-methyl-5-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-6-oxo-1,6-dihydro-pyridin-3-yl}-phenyl)-3,4-dihydro-2H-isoquinolin-1-one (40 mg, 0.069 mmol). MS (ESI) 579.2 (M+H)+.

reactant | 5-Bromo-1-methyl-3-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-1H-pyridin-2-one | 0.17 mmol, 67 mg | BrC=1C=C(C(N(C1)C)=O)NC1=NC=C(C=C1)C(=O)N1CCOCC1 | C16H17BrN4O3
reactant | 6-Dimethylamino-2-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-3,4-dihydro-2H-isoquinolin-1-one | 0.17 mmol, 67 mg | CN(C=1C=C2CCN(C(C2=CC1)=O)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C | C23H29BN2O3
reactant | sodium carbonate | 0.51 mmol, 54 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 2 mL | COCCOC | C4H10O2
solvent | water | 1 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.017 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-Dimethylamino-2-(3-{1-methyl-5-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-6-oxo-1,6-dihydro-pyridin-3-yl}-phenyl)-3,4-dihydro-2H-isoquinolin-1-one | 0.069 mmol, 40 mg | CN(C=1C=C2CCN(C(C2=CC1)=O)C1=CC(=CC=C1)C1=CN(C(C(=C1)NC1=NC=C(C=C1)C(=O)N1CCOCC1)=O)C)C | C33H34N6O4
